US04665206
5,6-Dimethoxy-benzo[b]thiophene-2-carboxylic acid (10 g) was suspended in ethanol (80 ml) and the mixture was stirred and heated at reflux for 5 hours. The resultant solution was evaporated to dryness and then crystallised from dichlolormethane:methanol to give 5,6-dimethoxy-benzo[b]thiophene-2-carboxylic acid ethyl ester as a white solid (9.5 g), m.p. 84°-85° C.

reactant | 5,6-Dimethoxy-benzo[b]thiophene-2-carboxylic acid | 10 g | COC1=CC2=C(SC(=C2)C(=O)O)C=C1OC | C11H10O4S
reactant | ethanol | 80 ml | C(C)O | C2H6O
product | 5,6-dimethoxy-benzo[b]thiophene-2-carboxylic acid ethyl ester | 9.5 g | C(C)OC(=O)C1=CC2=C(S1)C=C(C(=C2)OC)OC | C13H14O4S
